US07943622B2
(2-fluorophenyl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(2-fluorobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (26 mg, 0.050 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The desired chromatography fractions were concentrated under reduced pressure, dissolved in MeOH (1 mL), and treated with 4 M HCl in 1,4-dioxane. This was concentrated under reduced pressure, yielding 16.3 mg (86%) of the title compound as an off-white solid. LC-MS: RT=3.00 min, [M+H]+=316.3.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(2-fluorobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.050 mmol, 26 mg | OC(=O)C(F)(F)F.FC1=C(C(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2)C=CC=C1
solvent | MeOH | 1 mL | CO | CH4O
product | (2-fluorophenyl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 16.3 mg, 86% | Cl.Cl.FC1=C(C=CC=C1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C17H18FN3O2.2ClH/c18-16-6-2-1-5-15(16)17(22)21-9-8-20-10-13(21)12-23-14-4-3-7-19-11-14;;/h1-7,11,13,20H,8-10,12H2;2*1H
